US07291632B2
Preparation 52. N-(6-Aminopyridin-2-yl)-2,6-dichlorobenzamide
Using a method similar to Preparation 48, using 2,6-diaminopyridine (2.6 g, 24 mmol), dioxane (75 mL), and 2,6-dichlorobenzoyl chloride (1.68 g, 8 mmol)(stir at 25° C. for 16 hr.) gives the title intermediate (1.5 g, 66% yield): mass spectrum (ion spray): m/z=282.0 (M+1)

reactant | 2,6-diaminopyridine | 24 mmol, 2.6 g | NC1=NC(=CC=C1)N | C5H7N3
reactant | 2,6-dichlorobenzoyl chloride | 8 mmol, 1.68 g | ClC1=C(C(=O)Cl)C(=CC=C1)Cl | C7H3Cl3O
solvent | dioxane | 75 mL | O1CCOCC1 | C4H8O2
product | N-(6-Aminopyridin-2-yl)-2,6-dichlorobenzamide | 1.5 g, 66% yield | NC1=CC=CC(=N1)NC(C1=C(C=CC=C1Cl)Cl)=O | C12H9Cl2N3O
